US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[6-(1H-indol-3-yl)hexyl]acetamide hydrochloride (Example 40)
2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[6-(1H-indol-3-yl)hexyl]acetamide (516 mg, 1.12 mmol) was dissolved in a mixture of ethyl methyl ketone (25 ml) and ethanol (5 ml), and 5 M isopropanolic hydrochloric acid (0.44 ml, 2.2 mmol) was added. After 3 h the reaction mixture was concentrated, ether (15 ml) was added and the mixture was concentrated again. The residue was digested with ether (30 ml). After filtration, the product was obtained as a beige-coloured solid in a yield of 62% (342 mg).

reactant | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[6-(1H-indol-3-yl)hexyl]acetamide | 1.12 mmol, 516 mg | CN(C1(CCC(CC1)CC(=O)NCCCCCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C30H41N3O
reactant | hydrochloric acid | 2.2 mmol, 5 M, 0.44 ml | Cl | ClH
solvent | ethyl methyl ketone | 25 ml | CC(=O)CC | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(4-Dimethylamino-4-phenylcyclohexyl)-N-[6-(1H-indol-3-yl)hexyl]acetamide hydrochloride | yield of 62% | Cl.CN(C1(CCC(CC1)CC(=O)NCCCCCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | InChI=1S/C30H41N3O.ClH/c1-33(2)30(26-13-7-5-8-14-26)19-17-24(18-20-30)22-29(34)31-21-11-4-3-6-12-25-23-32-28-16-10-9-15-27(25)28;/h5,7-10,13-16,23-24,32H,3-4,6,11-12,17-22H2,1-2H3,(H,31,34);1H
